US08877782B2
6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 12, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mol) instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid was converted using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine to the title compound (trituration with tert-butylmethylether, 178 mg, 70%) which was obtained as a white solid. MS: m/e=395.2 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mol, 200 mg | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C16H13N3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 178 mg, 70% | CC1=C(C(=NO1)C1=CC=NC=C1)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C21H22N4O4
